US07355049B2
A solution of lithium hydroxide monohydrate (5.10 g, 121.5 mmol) in water (50 mL) was added to a solution of 5-(biphenyl-4-yloxymethyl)-furan-2-carboxylic acid methyl ester (15.00 g, 48.6 mmol) in tetrahydrofuran (450 mL). The reaction mixture was stirred at room temperature for 72 h. The solvents were evaporated and water was added. The mixture was extracted three times with ether. Insoluble white solid was filtered off. The pH of the aqueous solution was adjusted to 3 and the resulting mixture was extracted with ethyl acetate (3×500 mL). The combined organic layers were washed with 50% saturated brine and then evaporated under reduced pressure to give 5-(biphenyl-4-yloxymethyl)-furan-2-carboxylic acid (12.0 g, 84%) as a white solid.

reactant | lithium hydroxide monohydrate | 121.5 mmol, 5.10 g | O.[OH-].[Li+]
reactant | 5-(biphenyl-4-yloxymethyl)-furan-2-carboxylic acid methyl ester | 48.6 mmol, 15.00 g | COC(=O)C=1OC(=CC1)COC1=CC=C(C=C1)C1=CC=CC=C1 | C19H16O4
solvent | water | 50 mL | O | H2O
solvent | tetrahydrofuran | 450 mL | O1CCCC1 | C4H8O
product | 5-(biphenyl-4-yloxymethyl)-furan-2-carboxylic acid | 12.0 g, 84% | C1(=CC=C(C=C1)OCC1=CC=C(O1)C(=O)O)C1=CC=CC=C1 | C18H14O4
